Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Blurry vision 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ who has not seen a doctor in ___ years presents to the ED 
with several days of multiple complaints including headache, 
"sizzling" sound in head, blurry vision and right leg swelling.
On the floor, patient states that she had blurry vision, that 
she did not have headaches but she did notice the swelling in 
both feet and right leg from knee to ankle for about one week. 
She came to the emergency department at the urging of her 
daughter. Patient has not been seen by a doctor for ___ years. 
Denies lightheadedness or dizziness, no fevers, chills, no 
weight loss or weight gain, no LAD that she has noticed, no 
palpitations, chest pain, shortness of breath, PND, orthopnea, 
dyspnea on exertion, abdominal pain, cramping, no hematochezia, 
melena, no dysuria, no hematuria. Uses one pillow to sleep at 
home.

On arrival to the floor, patient relays the above, and has no 
other complaints.
In the ED, initial vitals were:
98.3 82 ___ RA
Exam notable for:  Decreased visual acuity b/l, NORMAL 
FUNDOSCOPIC EXAM, ocular pressures: 16 bilaterally (WNL) EOMI, 
pupils 3->2 b/l
RRR no m/r/g CTAB abd sntnd 2+ pitting edema b/l to knees R>L
- Labs notable for:
Trop x 2: 0.02, MB 5, INR 1.0, LFTs WNL , ProBNP 269
Ca ___, Mg 2.0, P 2.5 ___
UA: dirty Imaging was notable for:
EKG - LBBB, no prior, negative on Scarbossa's criteria
NCHCT negative RLE US negative
- Patient was given: IV labetalol 5 mg x 2.
 
Past Medical History:
Hypertension

 
Social History:
___
Family History:
Mother: HTN

 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
97.7 196/99 62 99%RA
83.5 kgs.
GENERAL: Patient lying in bed appearing stated age.
HEENT: MMM, NCAT, EOMI, PERRL, poor dentition
CARDIAC: S1/S2, without extra heart sound, no murmurs, rubs or 
gallops
LUNGS: CTA b/l
ABDOMEN: soft, non-tender, non-distended, BS+
EXTREMITIES: Left lower extremity with 1+ pitting edema to the 
mid shin. Right lower extremity larger than left with 2+ pitting 
edema to knee. Hyperpigmentation from right ankle down to foot.
NEUROLOGIC: A&O x3, strength ___ in upper and lower extremities

DISCHARGE PHYSICAL EXAM:
==============================
VITALS: 98.2 BP 189/92-> 161/94-> 143/73-> 148/82 HR ___ 99RA 
540/900
GENERAL: elderly woman, sitting up in the bed, sleepy but 
arousable
HEENT: MMM, NCAT, EOMI, PERRL, poor dentition
CARDIAC: S1/S2, with systolic murmur over precordium, radiating 
to axilla
LUNGS: clear to auscultation bilaterally
ABDOMEN: soft, non-tender, non-distended, BS+
EXTREMITIES: Left lower extremity with trace pitting edema to 
the mid shin on left, Right lower extremity larger than left 
with decreaed edema to knee. Hyperpigmentation from right ankle 
down to foot, hyperkeratotic nails 
NEUROLOGIC: A&O x3, strength ___ in upper and lower extremities,

 
Pertinent Results:
ADMISSION LABS:
==================
___ 10:44PM BLOOD WBC-6.0 RBC-4.60 Hgb-11.8 Hct-37.4 
MCV-81* MCH-25.7* MCHC-31.6* RDW-13.5 RDWSD-40.0 Plt ___
___ 10:00PM BLOOD Glucose-95 UreaN-17 Creat-1.1 Na-140 
K-3.7 Cl-103 HCO3-25 AnGap-16
___ 10:00PM BLOOD ALT-11 AST-18 CK(CPK)-197 AlkPhos-87 
TotBili-0.4
___ 10:00PM BLOOD Lipase-24
___ 10:00PM BLOOD Albumin-4.2 Calcium-10.0 Phos-2.5* Mg-2.0 
Cholest-250*
___ 06:00AM BLOOD %HbA1c-5.6 eAG-114
___ 10:00PM BLOOD Triglyc-72 HDL-60 CHOL/HD-4.2 
LDLcalc-176* LDLmeas-186*
___ 10:00PM BLOOD TSH-1.0
___ 10:02PM BLOOD Lactate-1.2

DISCHARGE LABS:
===================
___ 05:50AM BLOOD WBC-4.5 RBC-4.41 Hgb-11.6 Hct-36.1 MCV-82 
MCH-26.3 MCHC-32.1 RDW-13.7 RDWSD-40.7 Plt ___
___ 05:50AM BLOOD Glucose-89 UreaN-21* Creat-1.0 Na-140 
K-3.8 Cl-103 HCO3-25 AnGap-16
___ 05:50AM BLOOD Calcium-9.6 Phos-3.7 Mg-1.9

IMAGING:
=========
___ CT Head without contrast:
No acute intracranial process, no hemorrhage. 
Global volume loss and right frontal encephalomalacia which may 
be sequela of prior infarct. 

___ Lower Extremity US: No evidence of deep venous 
thrombosis in the right lower extremity veins.

___ CXR:No acute cardiopulmonary process.

 
Brief Hospital Course:
Ms. ___ is a ___ yoF with PMHx of HTN who has not been to the 
doctor in ___ years and is not currently on medication who 
presents with one week of lower extremity swelling and blurry 
vision and found to have uncontrolled HTN. 

ACTIVE ISSUES:
#Uncontrolled blood pressure:  Patient had relatively 
asymptomatic severe elevated blood pressure and no signs of end 
organ damage. ECG significant for LBBB and no previous 
comparison ECGs (negative Scarbossa's criteria). This is likely 
chronic untreated hypertension. She initially got IV labetalol 
5x2, then started on captopril 6.25 mg TID, then ultimately 
changed to lisinopril 5 with good effect. She should also get a 
TTE as an outpatient, 

#Asymmetric ___ edema: Patient noted to have worsening edema for 
about 1 week, no known history of heart failure. Differential 
included heart failure, vs venostasis vs thrombosis. LENIs on 
the right leg negative for DVT. She responded to 1 time IV Lasix 
20. Recommend repeat ___ u/s to assess for any proximal clot as 
outpatient in 1 week. Compression stockings also likely helpful. 


#Right>Left Visual disturbance: likely in setting of elevated 
BPs, resolved on discharge but unclear if any known hypertensive 
changes which may be not visualize. Should plan for formal 
ophthalmology followup as outpatient. 

#Prior stroke: Per CT read, may have had prior CVA. She was 
started on ASA 81 and atorvastatin 40.  

#Right ankle pain: possible OA, could also be from osteophyte. 
Pain management with Tylenol as needed. 

#LBB on EKG and systolic murmur : unclear baseline, no cardiac 
symptoms during hospitalization. She should get a TTE as 
outpatient. 

TRANSITIONAL ISSUES:
======================
-New medications: Aspirin 81, Atorvastatin 40, Lisinopril 5
-Please Repeat Chem 10 + repeat ___ by ___ to 
follow up lytes (discharge creatinine 1.0, K 3.8) given 
lisinopril. 
- repeat right lower extremity venous ultrasound in 1 week given 
asymmetric edema given possibility for false negative study for 
calf vein thrombosis. 
-She presented with blurry vision, now self reported largely 
resolved, no papilledema. However she has intermittent floaters 
and visual changes, and given likely longstanding untreated HTN, 
we recommend an ophthalmology evaluation within 1 week. 
-She has LVH, left bundle branch block on EKG and systolic 
murmur on exam. She would benefit from a baseline ECHO to assess 
for any dysfunction. 
-Recommend Podiatry followup for hypertrophic nails as well in a 
non urgent manner

 
Medications on Admission:
None 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
-Uncontrolled Hypertension
-Lower extremity edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ after having blurry vision 
and found to have a very high blood pressure. You were started 
on blood pressure medications which improved your symptoms.

You also have lower leg swelling, right bigger than left, which 
can be caused by many things, including clots which you do not 
have, or something called heart failure, which we have a low 
suspicion of.

It will be VERY IMPORTANT to start seeing a doctor for your 
primary care so they can help manage these issues. 
We would recommend:
1) A Primary Care Appointment within 1 week of discharge
2) Your new medications: Lisinopril 5 a day, Aspirin 81 mg a day 
and Atorvastatin 40 mg a day. Please take these medications 
every day before you see your new primary care doctor.
3) Given you had blurry vision and seeing dots, your primary 
care should set you up with an ophthalmologist (eye doctor) 
visit within 1 week 
4) Your ankles also have been swollen, and seeing a podiatrist 
(foot doctor) may also be helpful.

We wish you the best
Your ___ care team 
 
Followup Instructions:
___